US08383821B2
Methyl 5-cyano-2-methoxybenzoate.
Methyl 5-((hydroxyimino)methyl)-2-methoxybenzoate (1.04 g, 4.94 mmol) was dissolved in methylene chloride (25 mL) and cooled to 0° C. The reaction was treated with thionyl chloride (0.59 mL, 8.1 mmol) and stirred at 0° C. for 2 h. After warming to room temperature, the reaction was diluted with methylene chloride, washed with saturated sodium bicarbonate (2×), brine (2×), dried over sodium sulfate, and concentrated to afford 0.87 g (92%) which was used without further purification. 1H-NMR (CDCl3, 500 MHz) δ 8.09 (d, J=2.1 Hz, 1H), 7.75 (dd, J=8.9, 2.1 Hz, 1H), 7.05 (d, J=8.9 Hz, 1H), 3.96 (s, 3H), 3.90 (s, 3H). Mass spec.: 192.02 (MH)+.

reactant | Methyl 5-((hydroxyimino)methyl)-2-methoxybenzoate | 4.94 mmol, 1.04 g | ON=CC=1C=CC(=C(C(=O)OC)C1)OC | C10H11NO4
reactant | thionyl chloride | 8.1 mmol, 0.59 mL | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | Methyl 5-cyano-2-methoxybenzoate | C(#N)C=1C=CC(=C(C(=O)OC)C1)OC | C10H9NO3
